US07175670B2
A) Synthesis of 2-(1-(3,5-dinitropyrid-2-yl)piperid-2-yl)ethanol
3 g (14.7 mmol) of 2-chloro-3,5-dinitropyridine, 1.0 ml of THF and 30 mmol of 2-piperidinethanol were placed in a round-bottomed flask. The mixture was maintained at 60° C. for 15 hours with stirring and was then poured into an ice-water mixture with stirring. The precipitate formed was filtered off by suction and dried under vacuum to constant weight. 3.71 g of yellow powder were obtained.

reactant | 2-chloro-3,5-dinitropyridine | 14.7 mmol, 3 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | 2-piperidinethanol | 30 mmol | N1C(CCCC1)CCO | C7H15NO
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
product | 2-(1-(3,5-dinitropyrid-2-yl)piperid-2-yl)ethanol | 3.71 g | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])N1C(CCCC1)CCO | C12H16N4O5
